US05166212
The starting material is prepared as follows: 4.0 g of (S,S)-2,4-dibenzylglutaric anhydride is refluxed in 40 ml of ethanol:toluene (3:2) overnight. The reaction mixture is concentrated to yield 4-ethoxycarbonyl-(S,S)-2,4-dibenzylbutyric acid as an oil. Oxalyl chloride (3.5 ml) is added to the solution of 4.5 g of 4-ethoxycarbonyl-(S,S)-2,4-dibenzylbutyric acid in 10 ml of methylene chloride. The mixture is stirred at room temperature overnight and evaporated to yield 4-ethoxycarbonyl-(S,S)-2,4-dibenzylbutyryl chloride, which is used as such without further purification.

reactant | (S,S)-2,4-dibenzylglutaric anhydride | 4.0 g | C(C1=CC=CC=C1)[C@H]1C(=O)OC([C@@H](C1)CC1=CC=CC=C1)=O | C19H18O3
reactant | ethanol toluene | 40 ml | C(C)O.C1(=CC=CC=C1)C
product | 4-ethoxycarbonyl-(S,S)-2,4-dibenzylbutyric acid | C(C)OC(=O)[C@@H](C[C@H](C(=O)O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H24O4
